US07179812B2
A mixture of 4-chlormethyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazole (0.345 g, 1.2 mmol), 5-bromo-pyrazin-2-ol (0.175 g, 1.0 mmol) and cesium carbonate (Cs2CO3) (0.489 g, 1.5 mmol) in DMF (4 ml) is kept at 80° C. for 1 h. After cooling ethyl acetate (40 ml) is added, the mixture is washed with sat. NH4Cl and brine, dried over MgSO4 and concentrated in vacuo. The crude product is purified by flash column chromatography (ethyl acetate/hexane 1:9->ethyl acetate/hexane 1:2) yielding 2-bromo-5-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-yl-methoxy}-pyrazine as a white solid. Yield 122 mg (29%).

reactant | 4-chlormethyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazole | 1.2 mmol, 0.345 g | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C13H9ClF3NO
reactant | 5-bromo-pyrazin-2-ol | 1.0 mmol, 0.175 g | BrC=1N=CC(=NC1)O | C4H3BrN2O
reactant | cesium carbonate | 1.5 mmol, 0.489 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-bromo-5-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-yl-methoxy}-pyrazine | BrC1=NC=C(N=C1)OCC=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C17H11BrF3N3O2
